US08227461B2
a) 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid
To a solution of 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (3.89 g, 120 mmol) in ethanol (40 mL) was added aqueous sodium hydroxide (1 M, 36 mL, 36 mmol). The resulting mixture was heated under reflux for 2 h and then cooled to room temperature and concentrated. Addition of aqueous sodium hydroxide (1 M, 50 mL) was followed by washing with tert-butylmethylether (100 mL). The aqueous phase was acidified with aqueous hydrogen chloride (conc.) to pH=1 and extracted with tert-butylmethylether (100 mL). The organic layers was washed with water (50 mL) and aqueous sodium chloride (saturated, 50 mL). Drying over sodium sulfate and concentration afforded the title compound (1.68 g, 45%) as an off white solid. MS: m/e=309.3 [M−H]−.

reactant | 6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 120 mmol, 3.89 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=CC=C1)=O | C18H16N2O4
reactant | sodium hydroxide | 36 mmol, 1 M, 36 mL | [OH-].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 6-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-nicotinic acid | 1.68 g, 45% | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=NC=C(C(=O)O)C=C1 | C17H14N2O4
